US04985419
A solution of 2-(2-cyano-10-phenothiazinyl)propyl mesylate (9.05 g) in hexamethylenimine (28.2 cc) is brought to 90° C. for 16 hours. After cooling, the mixture is diluted with ethyl acetate (200 cc) and washed with distilled water (4×150 cc). The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is purified by chromatography on a column of 0.06-0.2 mm silica gel (height: 44 cm; diameter: 3.8 cm), eluting with mixture of cyclohexane and ethyl acetate in proportions (by volume) of 80:20 (500 cc) and 70:30 (1500 cc) and collecting 125-cc fractions. Fractions 7 to 15 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 10-[(2RS)-1-(perhydro-1-azepinyl)-2-propyl]-2-phenothiazinecarbonitrile (5.27 g) in the form of a yellow product of honey-like consistency.

reactant | 2-(2-cyano-10-phenothiazinyl)propyl mesylate | 9.05 g | S(C)(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
reactant | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
product | 10-[(2RS)-1-(perhydro-1-azepinyl)-2-propyl]-2-phenothiazinecarbonitrile | 5.27 g | N1(CCCCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C22H25N3S
